US08026257B2
5-Bromo-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole.
tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (40 mg, 0.064 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 3 mL) and stirred at room temperature for 4 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated. Column chromatography (90:8:4 dichloromethane/methanol/2 M ammonia in methanol) gave 19 mg (75%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.87 (s, 1H), 7.74 (d, J=1.8 Hz, 1H), 7.47 (m, 2H), 7.38 (m, 3H), 7.14 (d, J=1.2 Hz, 1H), 4.65 (s, 2H), 3.56 (s, 2H), 2.95 (m, 2H), 2.78 (m, 2H), 2.28 (bs, 1H), 2.22 (m, 2H), 1.88 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 143.8, 137.4, 133.6, 129.0, 127.0, 126.8, 125.2, 122.6, 122.5, 113.3, 80.7, 71.7, 42.5, 41.7, 33.5. Mass spec.: 400.01 (MH)+. Accurate mass spec.: m/z 400.1035 [MH]+, Δ=2.6 ppm.

reactant | tert-Butyl 4-(((5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.064 mmol, 40 mg | BrC=1C=C2C=NN(C2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Bromo-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole | BrC=1C=C2C=NNC2=C(C1)COCC1(CCNCC1)C1=CC=CC=C1 | C20H22BrN3O
